US05395817
4-Aminoindole (5.8 g, 44 mmol) and sodium hydride (80% dispersion in mineral oil, 1.3 g, 44 mmol) were stirred together in N,N-dimethylformamide (60 ml), with ice-bath cooling for 5 minutes, and then 2,3-dichloro-5-trifluoromethylpyridine (5,8 g, 44 mmol) was added slowly. The mixture was stirred at room temperature for 18 hours, and then a small quantity of methanol was added. The mixture was partitioned between diethyl ether and water. The ethereal solution was dried over magnesium sulfate, filtered and the filtrate evaporated in vacuo to give 4-amino-1-(3'chloro-5'-trifluoromethylpyridin-2-yl)indole (6.5 g) as a dark solid.

reactant | 4-Aminoindole | 44 mmol, 5.8 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | sodium hydride | 44 mmol, 1.3 g | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 44 mmol, 5,8 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-amino-1-(3'chloro-5'-trifluoromethylpyridin-2-yl)indole | 6.5 g | NC1=C2C=CN(C2=CC=C1)C1=NC=C(C=C1Cl)C(F)(F)F | C14H9ClF3N3
